US04921861
17.62 g (0.1 mole) of 3-amino-4-quinoline-thiol are dissolved in 50 ml of a 2 molar sodium hydroxide solution whereupon some sodium pyrosulfite crystals are added to the solution. At a temperature below 60° C. 22 g (0.14 mole) of ethyl iodide are added dropwise. The reaction mixture is stirred at 60° C., the product is extracted with chloroform, clarified with activated charcoal and evaporated. Thus 17.3 g of 3-amino-4-ethylthio-quinoline are obtained, yield 85%, b. p.: 147° C./26.6 N.m-2.

reactant | 3-amino-4-quinoline-thiol | 0.1 mole, 17.62 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | ethyl iodide | 0.14 mole, 22 g | C(C)I | C2H5I
solvent | sodium hydroxide | 2 molar | [OH-].[Na+]
solvent | sodium pyrosulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 3-amino-4-ethylthio-quinoline | 17.3 g, yield 85% | NC=1C=NC2=CC=CC=C2C1SCC | C11H12N2S
